US06441017B1
Step C: (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide
A mixture of (S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine, as described above in Step B, (842 mg, 4.52 mmol), lithium [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate, as described in Example 31, Step B, (1.69 g, 4.52 mmol), EDC (953 mg, 4.97 mmol), HOBT (672 mg, 4.97 mmol) and N,N-diisopropylethylamine (1.2 mL, 6.78 mmol) in DMF (10 mL) was stirred for 18 hours. The mixture was poured into saturated aqueous NaHCO3 and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with a gradient of CH2Cl2—1% to 5% MeOH—0.1% to 0.5% NH4OH, to yield the above-titled compound.

reactant | (S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | lithium [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate | 4.52 mmol, 842 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | EDC | 4.52 mmol, 1.69 g
reactant | HOBT | 4.97 mmol, 672 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 6.78 mmol, 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H36N4O3
